US05922703
A. 1-(Dipropylamino)-2,3-epoxypropane
A stirred solution of epichlorohydrin (20.0 g, 0.22 mole) is treated dropwise with dipropylamine (23.14 g, 0.23 mole) over a 1 hour period followed by continuous stirring at room temperature overnight. The reaction mixture is washed with 20% K2CO3 (50 ml). The organic layer is then stirred with 40% NaOH for 1 hour. The organic layer is separated and the aqueous layer is extracted with 3×100 ml portions of ether. The etheral extracts are pooled with the organic layer and washed with H2O (100 ml). The organic layer is dried over anhydrous Na2SO4 and filtered. The filtrate is concentrated under reduced pressure to yield the crude product (I) weighing 35.3 g. The crude product is distilled at 34°/0.1 mmHg to yield 7.23 g (21.0%) pure product to be used as an intermediate in Part B.

reactant | epichlorohydrin | 0.22 mole, 20.0 g | C(Cl)C1CO1 | C3H5ClO
reactant | dipropylamine | 0.23 mole, 23.14 g | C(CC)NCCC | C6H15N
product | 1-(Dipropylamino)-2,3-epoxypropane | 7.23 g, 21.0% | C(CC)N(CC1CO1)CCC | C9H19NO
